US05693658
Preparation of 6-[5-Ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinamido]hexanoic acid
A stirred solution of methyl 6-[5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinamido]hexanoate (5.14 g, 12.35 mmol) in tetrahydrofuran is treated with 2N sodium hydroxide (15 mL). The resulting mixture is stirred at room temperature for 24 hours. After this period, the reaction mixture is concentrated in vacuo to obtain a residue. The residue is cooled with an ice bath and acidified with concentrated hydrochloric acid. The resulting precipitate is isolated by vacuum filtration and washed with water to give the title product as a white solid, mp 76°-81° C.

reactant | methyl 6-[5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinamido]hexanoate | 12.35 mmol, 5.14 g | C(C)C=1C=NC(=C(C(=O)NCCCCCC(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C22H32N4O4
reactant | sodium hydroxide | 2N, 15 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-[5-Ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinamido]hexanoic acid | C(C)C=1C=NC(=C(C(=O)NCCCCCC(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C21H30N4O4
